US08859108B2
(i) 9-anthrylboronic acid
In a 500 mL three-neck flask, 7.7 g (30 mmol) of 9-bromoanthracene was placed, and the air in the flask was replaced with nitrogen. Then, 200 mL of THF was added into the flask and the solution was cooled to −80° C. under nitrogen stream. After cooling, 18 mL (30 mmol) of 1.6 M n-butyllithium was dripped into the solution and stirred at the same temperature for 2 hours. After a certain period, 6.8 mL (60 mmol) of trimethyl borate was added into the solution, the temperature of the solution was raised to room temperature, and then, the solution was stirred for 17 hours. After a certain period, 100 mL of 1.0 M hydrochloric acid was added to the solution and stirred for 1 hour. An aqueous layer of the obtained mixture was extracted with ethyl acetate. The resulting extracted solution and the organic layer were combined and washed with saturated saline, and then the organic layer was dried with magnesium sulfate. The obtained mixture was gravity filtered, and the filtrate was condensed to give a solid. The solid was recrystallized with toluene, so that 5.2 g of target white powder was obtained in a yield of 80%.

reactant | 9-bromoanthracene | 30 mmol, 7.7 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | n-butyllithium | 30 mmol, 1.6 M, 18 mL | C(CCC)[Li]
reactant | trimethyl borate | 60 mmol, 6.8 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1.0 M, 100 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 9-anthrylboronic acid | C1=CC=CC2=CC3=CC=CC=C3C(=C12)B(O)O | C14H11BO2
